US07384961B2
26 ml thionyl chloride were added dropwise to 5.20 g 2-methylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride and the mixture was heated (bath temperature 65 ° C) for 90 minutes, while stirring, and then concentrated under a water pump. After cooling, dilute sodium hydroxide solution (2 mol/l) was added, the mixture was extracted repeatedly with a mixture of equal volumes of tetrahydrofuran and ethyl acetate, the combined extracts were dried over magnesium sulfate and filtered and the filtrate was concentrated. The crude product obtained (3.25 g) was dissolved in 25 ml absolute ethanol and 8 ml ethyl acetate, and 4.1 ml chlorotrimethylsilane and 0.58 ml water were added in succession. The solid which had precipitated out (1.84 g) was filtered off with suction (cf. Example 79), the mother liquor was rendered basic with dilute sodium hydroxide solution (2 mol/l) and extracted repeatedly with a mixture of equal volumes of tetrahydrofuran and ethyl acetate, the combined extracts were dried over magnesium sulfate and filtered and the filtrate was concentrated. The residue obtained (1.45 g) was chromatographed on silica gel with methanol, to which 0.05 percent by volume of aqueous ammonia solution (25 percent strength by weight) had been added. The product fraction (0.52 g) was dissolved in 50 ml ethyl acetate, and 0.66 ml chlorotrimethylsilane, followed by 92 μl water, were added. 0.57 g methyl-(2-pyridin-3-yl-cyclohex-1-enylmethyl)amine hydrochloride was obtained as a precipitate.

reactant | thionyl chloride | 26 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride | 5.20 g | Cl.CNCC1C(CCCC1)(O)C=1C=NC=CC1
reactant | chlorotrimethylsilane | 4.1 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 0.58 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | methyl-(2-pyridin-3-yl-cyclohex-1-enylmethyl)amine hydrochloride | 0.57 g | Cl.CNCC1=C(CCCC1)C=1C=NC=CC1 | InChI=1S/C13H18N2.ClH/c1-14-9-11-5-2-3-7-13(11)12-6-4-8-15-10-12;/h4,6,8,10,14H,2-3,5,7,9H2,1H3;1H
